US04957928
3.4 ml of sulphuric acid (100% strength) are added to a solution of 2.54 g (7.5 mmol) of 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrochloride in 170 ml of absolute ethanol and the whole is boiled under reflux for 35 hours. After cooling, the reaction mixture is concentrated by evaporation in vacuo. The residue is dissolved in water while cold and is extracted with diethyl ether. The aqueous phase is rendered alkaline, while cold, with sodium hydroxide solution (30% strength) and extracted with dichloromethane. The combined dichloromethane extracts are dried over sodium sulphate and concentrated by evaporation in vacuo. 2.30 g (97.4%) of 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid ethyl ester are obtained in the form of a yellow oil. The 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid ethyl ester hydrochloride produced therefrom using hydrochloric acid in diethyl ether crystallises from acetone/diethyl ether and melts at 177°-178°.

reactant | sulphuric acid | 3.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrochloride | 7.5 mmol, 2.54 g | Cl.COC(=O)C=1CN(CCC1)CCC1COC2=CC=CC=C2C1
reactant | ethanol | 170 ml | C(C)O | C2H6O
product | 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid ethyl ester | 2.30 g, 97.4% | C(C)OC(=O)C=1CN(CCC1)CCC1COC2=CC=CC=C2C1 | C19H25NO3
